US08258130B2
To a solution of 5-methyl-3-(2-oxo-propyl)-3H-1,3,4-oxadiazol-2-one (2.052 g, 13.14 mmol) in a mixture of 2-propanol (12 mL) and water (0.3 mL) is added hydrazine monohydrate (0.96 mL, 19.8 mmol). The mixture is stirred at rt under N2 for 15 h, and then heated to reflux for 7 h. A solution of oxalic acid (0.363 g, 4.032 mmol) in 2-propanol (6 mL) is added to the warm reaction solution. The resulting precipitate is removed by filtration through a coarse porosity sintered glass funnel, and the filtrate is concentrated in vacuo to approximately 10 mL in total volume. The concentrated solution is chilled to −12° C., and the resulting crystals are collected by filtration and dried to afford N-(6-methyl-3-oxo-2,5-dihydro-3H-1,2,4-triazin-4-yl)-acetamide (1.562 g, 70%). MS: 171 (M+H); 1H NMR (300 MHz, CDCl3) δ 8.10 (br s, 1H), 7.57 (br s, 1H), 4.20 (s, 2H), 2.04 (s, 3H), 1.95 (s, 3H); 1H NMR (300 MHz, DMSO-d6) δ 9.98 (s, 1), 9.74 (s, 1), 4.04 (s, 2), 1.84 (s, 6).

reactant | 5-methyl-3-(2-oxo-propyl)-3H-1,3,4-oxadiazol-2-one | 13.14 mmol, 2.052 g | CC1=NN(C(O1)=O)CC(C)=O | C6H8N2O3
reactant | hydrazine monohydrate | 19.8 mmol, 0.96 mL | O.NN
reactant | oxalic acid | 4.032 mmol, 0.363 g | C(C(=O)O)(=O)O | C2H2O4
solvent | 2-propanol | 12 mL | CC(C)O | C3H8O
solvent | water | 0.3 mL | O | H2O
solvent | 2-propanol | 6 mL | CC(C)O | C3H8O
product | N-(6-methyl-3-oxo-2,5-dihydro-3H-1,2,4-triazin-4-yl)-acetamide | 1.562 g, 70% | CC=1CN(C(NN1)=O)NC(C)=O | C6H10N4O2
